US07199239B2
Intermediate 88: Ethyl {4-[(butylamino)methyl]-2-ethylphenoxy}acetate
To a solution of ethyl (2-ethyl-4-formylphenoxy)acetate (0.52 g, 2.2 mmol) in anhydrous ethanol (10 mL) was added butylamine (0.26 mL, 2.6 mmol). The resulting solution was stirred at room temperature under N2 for 18 h over 4A molecular sieves. The reaction was quenched by cautious addition of sat. NaHCO3 aq. (30 mL) and the mixture stirred for 30 mins. The mixture was then extracted EtOAc (2×100 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated in vacuo. Purification by SPE (SCX, 20 g) conditioning the cartridge with ethanol and then loading the compound and washing with CH2Cl2, then ethanol before eluting the title compound using 10% NH3 in ethanol, evaporation of the 10% NH3 in ethanol extract afforded the title compound as a pale yellow oil (0.364 g).

reactant | ethyl (2-ethyl-4-formylphenoxy)acetate | 2.2 mmol, 0.52 g | C(C)C1=C(OCC(=O)OCC)C=CC(=C1)C=O | C13H16O4
reactant | butylamine | 2.6 mmol, 0.26 mL | C(CCC)N | C4H11N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | Ethyl {4-[(butylamino)methyl]-2-ethylphenoxy}acetate | 0.364 g | C(CCC)NCC1=CC(=C(OCC(=O)OCC)C=C1)CC | C17H27NO3
